US03965151
Preparation of 2-[N-(2-Acetoxyethy)-N-(2-bromacetyl)amino]-5-chloro-2'-fluorobenzophenone
A mixture of 2.5g (0.0074 M) of 2-(2-acetoxyethylamino)-5-chloro-2'-flurobenzophenone and 5g (0.0362 M) of potassium carbonate in 25 ml of dry chloroform was treated with 2.0g (0.0096 M) of bromoacetyl bromide over a 20 minute period with stirring. The mixture was stirred for 1 hour at room temperature when 25 ml of water was added, and the chloroform layer was separated. The organic layer was washed with saturated brine, dried over anhydrous sodium sulfate and evaporated to dryness. The residual oil was dissolved in 10 ml of benzene, and chromatographed over 100g of Florisil. Elution with 1 l. of benzene gave 0.2g of an oil and elution with 1.5 l. of ether and 1 l. of ethyl acetate gave 1.8g and 1.0g, respectively of a colorless oil which were combined and recrystallized from a mixture of dichloromethane and petroluem ether to give the above named product as white prisms, m.p. 84°-88°.

reactant | 2-(2-acetoxyethylamino)-5-chloro-2'-flurobenzophenone | 0.0074 M, 2.5g | C(C)(=O)OCCNC1=C(C(=O)C2=C(C=CC=C2)F)C=C(C=C1)Cl | C17H15ClFNO3
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | bromoacetyl bromide | 0.0096 M, 2.0g | BrCC(=O)Br | C2H2Br2O
reactant | water | 25 ml | O | H2O
solvent | chloroform | 25 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-[N-(2-Acetoxyethy)-N-(2-bromacetyl)amino]-5-chloro-2'-fluorobenzophenone | C(C)(=O)OCCN(C(CBr)=O)C1=C(C(=O)C2=C(C=CC=C2)F)C=C(C=C1)Cl | C19H16BrClFNO4
